US07932251B2
The mixture of 4-chloro-1-iodo-2-(trifluoromethyl)-benzene (15 g), methyl acrylate (6.74 g), tetrabutylammonium chloride (14 g), palladium acetate (0.22 g) and potassium carbonate (13.6 g) in DMF (150 ml) was stirred at room temperature for 4 days. After diluting with ether (1 L), the mixture was washed with water (5×200 ml), then dried over sodium sulphate and solvent removed under reduced pressure. The residue was columned on silica gel using 5:1 heptane:EtOAc as eluant to give (E)-methyl 3-(4-chloro-2-(trifluoromethyl)-phenyl)-acrylate (13 g).

reactant | 4-chloro-1-iodo-2-(trifluoromethyl)-benzene | 15 g | ClC1=CC(=C(C=C1)I)C(F)(F)F | C7H3ClF3I
reactant | methyl acrylate | 6.74 g | C(C=C)(=O)OC | C4H6O2
reactant | potassium carbonate | 13.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium chloride | 14 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | ether | 1 L | CCOCC | C4H10O
catalyst | palladium acetate | 0.22 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-methyl 3-(4-chloro-2-(trifluoromethyl)-phenyl)-acrylate | 13 g | ClC1=CC(=C(C=C1)/C=C/C(=O)OC)C(F)(F)F | C11H8ClF3O2
